2171-11-01 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - weaned off nitro gtt. In the morning
   - cardiac catheterization: nothing able to be fixed, continue medical
   management
   - received precath hydration with bicarb + mucomyst
   - intubated in cath lab for flash pulmonary edema, SBP 90s, given 40mg
   IV Lasix, probable extubation in AM
   - continued diuresis overnight (Lasix 80mg IV x1)
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-10-31**] 12:00 PM
   Cefipime - [**2171-10-31**] 01:46 PM
   Vancomycin - [**2171-10-31**] 08:17 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2171-10-31**] 11:50 PM
   Other medications:
   Plavix
   ASA
   Coreg
   Amlodipine
   Atorvostatin
   Ipratroprium/ albuterol
   Famotidine
   Folic acid
   Senna/ colace/ milk magnesia
   heparin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-11-1**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 55 (46 - 72) bpm
   BP: 128/40(69) {109/39(63) - 143/53(85)} mmHg
   RR: 12 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 61 kg (admission): 64.5 kg
   Height: 62 Inch
             Total In:
                                                                    790 mL
                                                                    159 mL
   PO:
             TF:
   IVF:
                                                                    790 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                  1,260 mL
   Urine:
                                                                  1,495 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -705 mL
                                                                 -1,101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/49/155/27/2
   Ve: 6 L/min
   PaO2 / FiO2: 388
   Physical Examination
   GENERAL: intubated, sedated; opens eyes to sternal rub
   HEENT: Normocephalic, atraumaticr. No scleral icterus. PERRLA/EOMI. OP
   clear. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 3/6 SEM at LUSB.
   JVP at 10cm
   LUNGS: breathing unlabored, bibasilar rales; rhonchi in R>L
   ABDOMEN: NABS. Soft, NT. Distended. No HSM
   EXTREMITIES:+2 b/l edema to midankle. 2+ dorsalis pedis/ posterior
   tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   169 K/uL
   8.8 g/dL
   107 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.3 mEq/L
   59 mg/dL
   99 mEq/L
   138 mEq/L
   27.8 %
   4.8 K/uL
        [image002.jpg]
                            [**2171-10-28**]  03:57 AM
                            [**2171-10-28**]  09:23 AM
                            [**2171-10-28**]  10:27 AM
                            [**2171-10-28**]  02:55 PM
                             [**2171-10-29**]  05:11 AM
                             [**2171-10-30**]  05:50 AM
                             [**2171-10-31**]  03:04 AM
                             [**2171-10-31**]  05:09 PM
                             [**2171-10-31**]  08:58 PM
                             [**2171-11-1**]  02:08 AM
   WBC
   5.7
   5.0
   4.8
   5.8
   4.8
   Hct
   28.7
   27.4
   28.0
   29.2
   27.8
   Plt
   193
   186
   192
   209
   169
   Cr
   2.2
   2.1
   1.8
   1.6
   1.6
   1.5
   TropT
   0.86
   TCO2
   32
   32
   31
   29
   Glucose
   255
   277
   177
   244
   83
   102
   107
   Other labs: PT / PTT / INR:13.0/30.3/1.1, CK / CKMB /
   Troponin-T:116/11/0.86, ALT / AST:[**11-12**], Alk Phos / T Bili:73/0.3,
   Differential-Neuts:82.5 %, Lymph:11.0 %, Mono:5.6 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.4 g/dL, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.2 mg/dL
   Microbiology:
   [**10-31**]: sputum cx: Gram stain > 25 PMN,  < 10 epithelial cells
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Mr [**Known lastname 10470**] is a [**Age over 90 382**] year-old man with a history of severe CAD s/p CABG x
   2 and multiple PCIs, dCHF, DM, and CKD who presents with shortness of
   breath and respiratory distress.  Hospital course complicated by
   several episodes of pulmonary edema
   # Respiratory failure: pt with respiratory failure requiring intubation
   yesterday secondary to repeat pulmonary edema.  Likely contribution
   from HAP although pt remains afebrile with no leukocytosis.  s/p
   diuresis of approx 1.5 L following pulmonary edema.  On minimal
   ventilatory settings, and can likely be extubated today
   - d/c femoral sheath
   - wean midazolam
   - risbe, followed by extubation if < 100
   - continue nebulizers
   - cont rx with clinda/cefepime/ vanco for 8 day course; day [**4-4**]
   - f/u sputum cx
    # CAD s/p CABGx2 and multiple stents, currently on medical
   management:  cardiac catheterization with no lesions amenable to
   intervention.  Tolerated procedure well with no acute complication.
   Likely experiencing microvascular ischemia leading to repeat episodes
   of pulmonary edema.  [**Hospital 1954**] medical therapy
   - continue ASA, clopidogrel, atorvastatin
   - change nitropaste to imdur and titrate up as tolerated by blood
   pressure
   - continue B-blocker, CCB with goal HR in 50-60s
   - transfuse with 1UpRBC to minimize symptoms of ischema
   # chronic diastolic CHF: initially presented with flash pulmonary edema
   requiring intubation from CHF exacerbation.  Hospital course cx by
   repeat episodes of resp distress from pulm edema and PNA (see below).
   Likely caused by small ischemic events from severe CAD.  Currently
   appears euvolemic after diuresis of 1.5L after intubation on [**10-31**]
   - strict I/O, net goal of -1.5L
   - lasix 80mg IV x 1 during to transfusion with 1UpRBC
   - cont ASA, clopidogrel, carvedilol, CCB
   # HTN: Currently controlled. Home regimen includes BB and CCB.
   - cont home dose carvedilol, amlodipine 10mg
   #  Acute on Chronic kidney injury:  creatinine returning to baseline,
   today 1.6 from peak of 2.2 with aggressive diuresis.  Creatinine stable
   following cardiac catheterization.  Likely indicative of intravascular
   depletion.  Has had acute renal failure in setting of diuresis in past,
   including previous admission for CHF exacerbation.
   - trend creatinine
   - renally dose meds
   #  MDS/ Chronic Normocytic Anemia: Patient has known chronic anemia at
   baseline thought [**12-31**] myelodysplasia. Followed by Heme as outpatient. On
   Epo injections 20K at home.
   - trend hct
   - transfuse 1UpRBC to maintain Hct> 30
   - EPO 8,000 3x/week
   # Diabetes type 2: hyperglycemia improved with lantus dose
   - finger sticks qachs
   - continue lantus and ISS
   FEN:  NPO/ replete prn
   PPX:  SQH
   ACCESS: PIV's
   CODE STATUS: Full
   DISPOSITION: ICU level pending resolution of respiratory failure and
   stabilization of fluid status
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Patient remains intubated and will check RSBI as well as try to
   extubate later today once sedation wears off. Cath yesterday
   demonstrated patent SCG to LPL and LIMA to LAD. Will continue to gently
   diurese to neg 1 Liter today as well as advance anti-ischemic regimen
   by substituting Imdur for NT paste. Will transfuse 1 unit in half
   packs.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2171-11-1**] 05:59 PM ------

2171-11-02 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - d/ced arterial sheath
   - d/c nitropaste, started imdur
   - CXR: Improved aeration of the lungs after intubation
   - extubated without difficulties at 3pm
   - received 1UpRBC with 80mg IV Lasix
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-11-1**] 12:30 PM
   Cefipime - [**2171-11-1**] 03:11 PM
   Vancomycin - [**2171-11-1**] 08:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-11-1**] 04:00 PM
   Furosemide (Lasix) - [**2171-11-1**] 04:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-11-2**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 57 (55 - 79) bpm
   BP: 115/51(67) {101/41(56) - 136/62(78)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 64.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,217 mL
                                                                    280 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                    914 mL
                                                                     80 mL
   Blood products:
                                                                    303 mL
   Total out:
                                                                  3,025 mL
                                                                    510 mL
   Urine:
                                                                  3,025 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,808 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 430 (430 - 430) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   SpO2: 97%
   ABG: ///30/
   Ve: 7.6 L/min
   Physical Examination
   GENERAL: sitting in bed comfortably, A+O x 3, NAD
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRLA/EOMI. OP
   clear. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. 3/6 SEM at LUSB.
   JVP at 10cm
   LUNGS: breathing unlabored, diminished at bases; rales  R>L
   ABDOMEN: NABS. Soft, NT. Distended. No HSM
   EXTREMITIES:+2 b/l edema to midankle. 2+ dorsalis pedis/ posterior
   tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   199 K/uL
   11.0 g/dL
   98 mg/dL
   1.5 mg/dL
   30 mEq/L
   3.8 mEq/L
   58 mg/dL
   100 mEq/L
   138 mEq/L
   35.5 %
   6.1 K/uL
        [image002.jpg]
                            [**2171-10-28**]  10:27 AM
                            [**2171-10-28**]  02:55 PM
                             [**2171-10-29**]  05:11 AM
                             [**2171-10-30**]  05:50 AM
                             [**2171-10-31**]  03:04 AM
                             [**2171-10-31**]  05:09 PM
                             [**2171-10-31**]  08:58 PM
                             [**2171-11-1**]  02:08 AM
                             [**2171-11-2**]  12:24 AM
                             [**2171-11-2**]  06:36 AM
   WBC
   5.0
   4.8
   5.8
   4.8
   6.1
   Hct
   27.4
   28.0
   29.2
   27.8
   30.9
   35.5
   Plt
   186
   192
   209
   169
   199
   Cr
   2.1
   1.8
   1.6
   1.6
   1.5
   1.5
   TCO2
   32
   31
   29
   Glucose
   277
   177
   244
   83
   102
   107
   98
   Other labs: PT / PTT / INR:13.0/30.3/1.1, CK / CKMB /
   Troponin-T:116/11/0.86, ALT / AST:[**10-16**], Alk Phos / T Bili:64/0.3,
   Differential-Neuts:82.5 %, Lymph:11.0 %, Mono:5.6 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.4 g/dL, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.8 mg/dL
   Microbiology:
Sputum Culture:  Commensal Respiratory Flora Absent. STAPH AUREUS COAG +. SPARSE
 GROWTH. Yeast with rare growth
   Assessment and Plan
   Mr [**Known lastname 10470**] is a [**Age over 90 382**] year-old man with a history of severe CAD s/p CABG x
   2 and multiple PCIs, dCHF, DM, and CKD who presents with shortness of
   breath and respiratory distress.  Hospital course complicated by
   several episodes of pulmonary edema
   # Respiratory failure: pt with respiratory failure requiring intubation
   twice during hospital course secondary to repeat pulmonary edema.
   Likely contribution from HAP although pt remains afebrile with no
   leukocytosis.  s/p diuresis of approx -5.4L during hospital stay
   - continue nebulizers
   - cont rx with clinda/cefepime/ vanco for 7 day course; day [**5-5**]: could
   likely narrow to vanco based on sputum cx
   - restart home diuretics Bumex 1mg [**Hospital1 **] with goal fluid balance -500 to
   -1000cc/hr
    # CAD s/p CABGx2 and multiple stents, currently on medical
   management:  cardiac catheterization with no lesions amenable to
   intervention.  Likely experiencing microvascular ischemia leading to
   repeat episodes of pulmonary edema.  [**Hospital 1954**] medical therapy
   - continue ASA, clopidogrel, atorvastatin
   - titrate imdur dose to 120mg as tolerated by BP
   - continue B-blocker, CCB with goal HR in 50-60s
   - s/p transfusion with 1UpRBC to minimize symptoms of ischema
   # chronic diastolic CHF: initially presented with flash pulmonary edema
   requiring intubation from CHF exacerbation.  Hospital course cx by
   repeat episodes of resp distress from pulm edema and PNA .  Likely
   caused by small ischemic events from severe CAD.  Currently appears
   mildly hypervolemic with b/l pedal edema and JVP
   - strict I/O, net goal of -1.5L
   - Bum 1mg [**Hospital1 **] with bolus lasix prn
   - cont ASA, clopidogrel, carvedilol, CCB
   # HTN: Currently controlled. Home regimen includes BB and CCB.
   - cont home dose carvedilol, amlodipine 10mg
   #  Acute on Chronic kidney injury:  creatinine returning to baseline,
   today 1.5 from peak of 2.2 with aggressive diuresis.  Creatinine stable
   following cardiac catheterization.  Likely indicative of intravascular
   depletion.  Has had acute renal failure in setting of diuresis in past,
   including previous admission for CHF exacerbation.
   - trend creatinine
   - renally dose meds
   #  MDS/ Chronic Normocytic Anemia: Patient has known chronic anemia at
   baseline thought [**12-31**] myelodysplasia. Followed by Heme as outpatient. On
   Epo injections 20K at home.
   - trend hct
   - transfuse 1UpRBC to maintain Hct> 30
   - EPO 8,000 3x/week
   # Diabetes type 2: hyperglycemia improved with lantus dose
   - finger sticks qachs
   - continue lantus and ISS
   FEN:  NPO/ replete prn
   PPX:  SQH
   ACCESS: PIV's
   CODE STATUS: Full
   DISPOSITION: transfer to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Patient doing very well this morning sitting in chair and without chest
   pain or shortness of breath. Patient successfully extubated yesterday
   at 3pm. Fluid balance is negative 1.8 L in 24 hours including a
   transfusion of 1 u PRBC in half packs. Hct now 35.5 vol%. Antianginal
   therapy has been increased by adding Imdur 90 mg QD in place of NT
   paste and he continues on Amlodipine 10 mg QD and coreg 50 mg [**Hospital1 **].
   Creatinine stable at 1.5 mg/ dl. PLan is to maintain a negative fluid
   balance of 500 cc today and to increase Imdur to 120 mg QD if BP
   tolerates. Lasix will be changed back to him home diuretic dose of
   Bumex 2 mg Qam. OK to [**Hospital Ward Name 790**] 3 later today if necessary.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2171-11-2**] 11:31 AM ------